US08242116B2
8-Methyl-2H-1,4-benzoxazin-3(4H)-one
A solution of chloroacetyl chloride (0.71 mL, 8.94 mmol) in THF (5 mL) was added dropwise to a solution/suspension of 2-amino-6-methylphenol (1 g, 8.13 mmol) and triethylamine (1.24 mL, 8.94 mmol) in THF (50 mL) which had been pre-cooled in an ice-water bath. After stirring for 5 minutes a further portion of triethylamine (1.24 mL, 8.94 mmol) was added. The mixture was stirred and warmed to r. t. After 24 h the reaction was allowed to stand overnight. The mixture was concentrated in vacuo and the residue was partitioned between water (100 mL) and EtOAc (50 mL). Brine (20 mL) was added to the aqueous phase, and this was further extracted with EtOAc (50 mL). The combined organic fractions were dried (MgSO4), concentrated in vacuo, and purified by column chromatography (SiO2, 20-100% EtOAc/heptane) to give an orange-brown solid (1.04 g), which was dissolved in THF (10 mL) and triethylamine (2 mL), and the mixture left to stand for 3 days. The mixture was concentrated in vacuo and purified by column chromatography (SiO2, 10-50% EtOAc/heptane) to give a cream solid (0.6 g). This was dissolved in DCM (40 mL), and the solution was washed with aqueous NaOH (2M, 10 mL). The organic fraction was dried (MgSO4) and concentrated in vacuo to give the title compound (0.29 g, 22%) as a beige solid. LCMS (ES+) 164 (M+H)+, RT 2.61 minutes (Method 1).

reactant | chloroacetyl chloride | 8.94 mmol, 0.71 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-amino-6-methylphenol | 8.13 mmol, 1 g | NC1=C(C(=CC=C1)C)O | C7H9NO
reactant | triethylamine | 8.94 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 8.94 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-Methyl-2H-1,4-benzoxazin-3(4H)-one | 1.04 g | CC1=CC=CC=2NC(COC21)=O | C9H9NO2
